US04910326
5-Trifluoromethyl-3-aminoisoxazole
Dry methanol (220 ml) and 96% hydroxylamine hydrochloride (11.52 g, 0.159 mole) were added to trifluoroacetoacetonitrile (16.78 g, 0.122 mole) and the mixture was heated under reflux with stirring for 68 hours. Methanol was then evaporated under reduced pressure and, after addition of water (240 ml), a 48% solution of sodium hydroxide was added to the resulting residue to adjust to pH 11 or higher. The solution was extracted with methylene chloride and, after drying the extract with anhydrous sodium sulfate, the solvent was evaporated under reduced pressure to give the title compound (10.30 g, 55.2%) as little colored crystals, m.p. 57°-58° C., b.p. 66°-67° C./0.8 mmHg.

reactant | hydroxylamine hydrochloride | 0.159 mole, 11.52 g | Cl.NO
reactant | trifluoroacetoacetonitrile | 0.122 mole, 16.78 g | FC(C(CC#N)=O)(F)F | C4H2F3NO
solvent | methanol | 220 ml | CO | CH4O
product | 5-Trifluoromethyl-3-aminoisoxazole | 10.30 g, 55.2% | FC(C1=CC(=NO1)N)(F)F | C4H3F3N2O
